US05767268
D-Ribonic acid (benzyl 2-benzyloxycarbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide was acetylated as described in Ex. 14.B. and gave 2,3,4,5-tetra-O-acetyl-D-ribonic acid (benzyl 3,4-di-O-acetyl-2-benzyloxycarbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide, [α]+78.0° (c 0.2; dioxan), MS: m/z 803.2 ([M+H]+).

reactant | D-Ribonic acid (benzyl 2-benzyloxycarbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](O)[C@H](O)[C@H](O1)CNC(=O)[C@H](O)[C@H](O)[C@H](O)CO)NC(=O)OCC1=CC=CC=C1 | C26H34N2O11
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 2,3,4,5-tetra-O-acetyl-D-ribonic acid (benzyl 3,4-di-O-acetyl-2-benzyloxycarbonylamino-2,6-didesoxy-α-D-glucopyranosid-6-yl)-amide | C(C1=CC=CC=C1)[C@@]1(O)[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CNC(=O)[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)COC(C)=O)NC(=O)OCC1=CC=CC=C1 | C38H46N2O17
